US06538021B1
3.5 g of isoquercetin are carefully suspended in 500 ml of demineralized water at 60° C., and 8.8 ml of 32% strength aqueous sodium hydroxide solution are introduced into the resulting yellow suspension. During this addition, a dark-red colored clear solution forms. 25 g of sodium d-thionite are added at 60° C. and the mixture is stirred for 12 h at this temperature. The mixture is then cooled to 5° C. and carefully neutralized with 37% strength hydrochloric acid, the solution immediately turning cloudy. The mixture is stirred for 1 h at 0° C. Customary work-up gives 2.05 g of luteolin with a purity of 98.8%.

reactant | isoquercetin | 3.5 g | C1=CC(=C(C=C1C2=C(C(=O)C=3C(=CC(=CC3O2)O)O)O[C@H]4[C@@H]([C@H]([C@@H]([C@H](O4)CO)O)O)O)O)O | C21H20O12
reactant | sodium hydroxide | [OH-].[Na+]
reactant | sodium | 25 g | [Na] | Na
reactant | hydrochloric acid | Cl | ClH
solvent | water | 500 ml | O | H2O
product | luteolin | 2.05 g | C1=CC(=C(C=C1C2=CC(=O)C=3C(=CC(=CC3O2)O)O)O)O | C15H10O6
